US06747023B1
1-[4-(2-Aminomethylpyridin-4-yl)benzoyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride
At room temperature, 1-[4-(2-azidomethylpyridin-4-yl)benzoyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine (159 mg) was dissolved in tetrahydrofuran (5 ml), followed by the addition of water (0.5 ml) and triphenylphosphine (114 mg). The resulting mixture was stirred for 18 hours. The residue obtained by distilling off the solvent under reduced pressure was purified by chromatography on a silica gel column (10% methanol—dichloromethane), followed by dissolution in dichloromethane. To the resulting solution, 1N hydrochloric acid in ethanol and water were added. The resulting mixture was then concentrated. The crystals were collected by filtration and washed with ethyl acetate, whereby the title compound (53 mg, 30%) was obtained.

reactant | 1-[4-(2-azidomethylpyridin-4-yl)benzoyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine | 159 mg | N(=[N+]=[N-])CC1=NC=CC(=C1)C1=CC=C(C(=O)N2CCN(CC2)S(=O)(=O)C2=CC3=CC=C(C=C3C=C2)Cl)C=C1 | C27H23ClN6O3S
reactant | water | 0.5 ml | O | H2O
reactant | triphenylphosphine | 114 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-[4-(2-Aminomethylpyridin-4-yl)benzoyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride | Cl.NCC1=NC=CC(=C1)C1=CC=C(C(=O)N2CCN(CC2)S(=O)(=O)C2=CC3=CC=C(C=C3C=C2)Cl)C=C1 | InChI=1S/C27H25ClN4O3S.ClH/c28-24-7-5-22-17-26(8-6-21(22)15-24)36(34,35)32-13-11-31(12-14-32)27(33)20-3-1-19(2-4-20)23-9-10-30-25(16-23)18-29;/h1-10,15-17H,11-14,18,29H2;1H
